US09260439B2
Step 6: Preparation of 2-amino-1-{(3S)-3-[4-(2-aminopyrimidin-5-yl)-2-(morpholin-4-yl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidin-1-yl}-2-methylpropan-1-one
In a foil covered flask, a solution of tert-butyl(1-{(3S)-3-[4-(2-aminopyrimidin-5-yl)-2-(morpholin-4-yl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidin-1-yl}-2-methyl-1-oxopropan-2-yl)carbamate (369 mg, 0.65 mmol) in MeON (3 mL) was treated with HCl (3 mL, 4N in dioxane) and the mixture was stirred at room temperature for 18 h. The mixture was diluted with toluene and concentrated. The residue was dissolved in a minimum amount of MeOH, dropped into aqueous NaHCO3 and extracted with 15% i-PrOH in DCM (4×). The extracts were washed with brine, dried over MgSO4 and concentrated. The oily residue was suspended in a few mL of acetonitrile and sonicated briefly, inducing crystallization. The resulting solids were collected by filtration to give the title compound (206 mg, 68%) as an off-white solid. 1H NMR (400 MHz, 80° C., DMSO-d6) δ 8.73 (s, 2 H), 6.68 (br s, 2 H), 4.40-4.00 (m, 2 H), 3.73-3.50 (m, 12 H), 3.12-3.07 (m, 2H, partially overlapped with water), 2.41-2.30 (m, 1 H), 2.06-1.97 (m, 1 H), 1.74 (br s, 2 H), 1.31 (s, 3 H), 1.27 (s, 6 H). m/z (APCI+) for C23H33CN9O2 468.3 (M+H)+.

reactant | tert-butyl(1-{(3S)-3-[4-(2-aminopyrimidin-5-yl)-2-(morpholin-4-yl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidin-1-yl}-2-methyl-1-oxopropan-2-yl)carbamate | 0.65 mmol, 369 mg | C(C)(C)(C)OC(NC(C(=O)N1C[C@@](CC1)(C)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2)(C)C)=O | C28H41N9O4
reactant | HCl | 4N, 3 mL | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-amino-1-{(3S)-3-[4-(2-aminopyrimidin-5-yl)-2-(morpholin-4-yl)-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-methylpyrrolidin-1-yl}-2-methylpropan-1-one | 206 mg, 68% | NC(C(=O)N1C[C@@](CC1)(C)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2)(C)C | C23H33N9O2
